US07429665B2
4-(4-Pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-phenol
To a solution of 4-Methoxy-N-pyridin-4-yl-benzamide (75 mg) in POCl3 (3 ml) was added PCl5 (68 mg) and the reaction mixture heated at reflux for 5 h. The reaction mixture was concentrated and dissolved in dimethyl formamide (2 ml) and Formic acid hydrazide (5 eq, 100 mg) was added and stirred for 2 h. The reaction mixture was concentrated and diluted with isopropanol (3 mL) and 0.25 ml of conc. HCl was added. The reaction mixture stirred for 18 h, quenched with 1 NaOH, extracted with dichloromethane, dried magenesium sulfate and concentrated. The crude product dissolved in methylene chloride (2 mL) and boron tribromide (0.63 mL 1.0M hexanes) was added at 0° C. The reaction mixture was warmed to ambient temperature and stirred for 18 h. The reaction mixture was quenched with 1 N NaOH and pH adjusted to 9, extracted with dichloromethane, dried magnesium sulfate, filtered and concentrated. Purification via Biotage MPLC chromatography eluting with 0-20% methanol/methylene chlroride provided the title compound (32 mg, 55%). MS: (M+H m/z=239.2).

reactant | 4-Methoxy-N-pyridin-4-yl-benzamide | 75 mg | COC1=CC=C(C(=O)NC2=CC=NC=C2)C=C1 | C13H12N2O2
reactant | PCl5 | 68 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | Formic acid hydrazide | 100 mg, 5 eq | C(=O)NN | CH4N2O
solvent | POCl3 | 3 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-(4-Pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-phenol | 32 mg, 55% | N1=CC=C(C=C1)N1C(=NN=C1)C1=CC=C(C=C1)O | C13H10N4O
